US07855297B2
By the reaction and treatment in the same manner as in Example 1 using 2-oxo-1,2,3,4-tetrahydroquinoline-4-carboxylic acid (0.5 g) and [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine (0.7 g) as starting materials, N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-2-oxo-1,2,3,4-tetrahydroquinoline-4-carboxamide (0.6 g) was obtained. melting point: 170° C.

reactant | 2-oxo-1,2,3,4-tetrahydroquinoline-4-carboxylic acid | 0.5 g | O=C1NC2=CC=CC=C2C(C1)C(=O)O | C10H9NO3
reactant | [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine | 0.7 g | CN(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)C)C | C18H24N2
product | N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-2-oxo-1,2,3,4-tetrahydroquinoline-4-carboxamide | 0.6 g | CN(C1=CC=C(C=C1)CN(C(=O)C1CC(NC2=CC=CC=C12)=O)C1=CC=C(C=C1)C(C)C)C | C28H31N3O2
